* Nodes: 1: GND, 2: VOUT, 3: VDD, ..., 33: VIN
M1 2 9 1 1 NMOS W=L
M2 6 9 2 2 NMOS W=L
M3 8 5 3 3 PMOS W=1.4*L
M4 7 33 3 3 PMOS W=0.25*L
M5 3 7 5 5 NMOS W=L
M6 5 8 1 1 NMOS W=L

IIN 33 3 DC VALUE

VOUT 2 1 DC 0

.END