* Nodes: 1: GND, 2: VOUT, 3: VDD, ..., 33: VIN
M1 2 9 1 1 NMOS
M2 6 9 2 2 NMOS
M3 8 5 3 3 PMOS
M4 7 33 3 3 PMOS
M5 3 7 5 5 NMOS
M6 5 8 1 1 NMOS

IIN 33 3 DC VALUE

VOUT 2 1 DC 0

.END